US05142056
N-(1,5-Diphenylpent-3-yl)hydroxylamine
A solution of 0.37 g (1.55 mmol) of 1,5-diphenyl-3-pentanone in 20 ml of 2-propanol was treated with 0.22g (3.1 mmol) of hydroxylamine hydrochloride and 0.31 g (4.7 mmol) of anhydrous sodium acetate. After being stirred for 10 min, the mixture was treated with 0.20 g (3.2 mmol) of sodium cyanoborohydride and stirred at ambient temperature for 16 h. After concentration in vacuo, the residue was taken up in ethyl acetate, washed sequentially with aqueous NaHCO3 and saturated brine, dried over MgSO4, and concentrated. Flash chromatography using 40% ethyl acetate in chloroform gave 121 mg (31%) of the desired compound (Rf 0.16, 30% ethyl acetate in chloroform) as a white solid, m.p. 54°-55° C. 1H NMR (CDCl3) δ 1.7-1.85 (m, 2H), 1.85-2.0 (m, 2H), 2.6-2.75 (m, 4H), 2.90 (pentet, J=6 Hz, 1H), 5.22 (br, 2H), 7.1-7.35 (m, 10H). Mass spectrum (M+H)+ =256.

reactant | 1,5-diphenyl-3-pentanone | 1.55 mmol, 0.37 g | C1(=CC=CC=C1)CCC(CCC1=CC=CC=C1)=O | C17H18O
reactant | hydroxylamine hydrochloride | 3.1 mmol, 0.22g | Cl.NO
reactant | sodium acetate | 4.7 mmol, 0.31 g | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 3.2 mmol, 0.20 g | C(#N)[BH3-].[Na+]
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | N-(1,5-Diphenylpent-3-yl)hydroxylamine | 121 mg | C1(=CC=CC=C1)CCC(CCC1=CC=CC=C1)NO | C17H21NO
